US05003080
A mixture of (±)-cis-1-methylethyl 6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetate, 0.55 g, in glacial acetic acid is hydrogenated with platinum dioxide at 50 pounds per square inch (PSI). Concentration, dilution with ethyl acetate and bicarbonate wash, followed by washing with brine and drying provides 250 mg of (±)-cis-1-methylethyl 6-(2-aminoethyl)-2,2-dimethyl-1,3-dioxane-4-acetate. MS 260.1, 244.1

reactant | (±)-cis-1-methylethyl 6-(cyanomethyl)-2,2-dimethyl-1,3-dioxane-4-acetate | C(#N)C[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)C | C13H21NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | platinum dioxide | [Pt](=O)=O
product | (±)-cis-1-methylethyl 6-(2-aminoethyl)-2,2-dimethyl-1,3-dioxane-4-acetate | 250 mg | NCC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)C | C13H25NO4
